US06750232B2
3-(Dimethylamino)-1-(2-furyl)-2-propen-1-one
A mixture of 2-acetylfuran (25.0 g, 0.227 mmol) and N,N-dimethylformamide dimethylacetal (40 ml) was stirred at 100° C. for 9 hours. After cooling as it was, the reaction solution was concentrated. Diethyl ether and hexane were added to the residue, and the resulting solid was collected by filtration and washed with hexane, to give the title compound (36.5 g, 97%) as a brown solid.

reactant | 2-acetylfuran | 0.227 mmol, 25.0 g | C(C)(=O)C=1OC=CC1 | C6H6O2
reactant | N,N-dimethylformamide dimethylacetal | 40 ml | COC(N(C)C)OC | C5H13NO2
product | 3-(Dimethylamino)-1-(2-furyl)-2-propen-1-one | 36.5 g, 97% | CN(C=CC(=O)C=1OC=CC1)C | C9H11NO2
